US08383644B2
To a solution of (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-3-hydroxy-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester 8-methyl ester (122 mg) in DCM (10 mL) were added TFA (1 mL) and triethylsilane (3 eq) at −10° C. and the reaction mixture were stirred and allowed to warm up to room temperature within 3 h. Then the reaction mixture was concentrated in vacuo. To this residue di-tert-butyl dicarbonate (2 eq) and sodium bicarbonate (3.0 eq) were added in the presence of ethyl acetate (25 mL) and stirred at r.t. for 4 h. After t-boc protection was complete the reaction mixture was then slowly acidified with dilute HCl (25 mL, 1.0 M solution), extracted with ethyl acetate (2×25 mL). The combined organic extracts were washed with 1 N HCl (25 mL), water (25 mL) and brine (25 mL) dried over sodium sulfate, filtered, and concentrated to provide a yellow solid. The residue was then purified by silica gel chromatography (10/90 to 30/70 ethyl acetate/hexanes in 10% increments) to obtain a white solid of (S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester 8-methyl ester (73 mg).

reactant | (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-3-hydroxy-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester 8-methyl ester | 122 mg | COC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@](O3)(O)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)C(=O)OC(C)(C)C | C31H31Cl2NO8
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 3 eq | C(C)[SiH](CC)CC | C6H16Si
reactant | di-tert-butyl dicarbonate | 2 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | 3.0 eq | C([O-])(O)=O.[Na+]
reactant | HCl | 1.0 M, 25 mL | Cl | ClH
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | (S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester 8-methyl ester | 73 mg | COC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)C(=O)OC(C)(C)C | C31H31Cl2NO7
